US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-methoxy-phenyl)-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(3-methoxy-phenyl)-amine (200.0 mg, 0.6266 mmol) and (4-methylsulfonylphenyl)boronic acid (150.0 mg, 0.7499 mmol) with Pd(dppf)Cl2 (50.0 mg) as the catalyst in a manner analogous to

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(3-methoxy-phenyl)-amine | 0.6266 mmol, 200.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)OC | C13H11BrN4O
reactant | (4-methylsulfonylphenyl)boronic acid | 0.7499 mmol, 150.0 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
catalyst | Pd(dppf)Cl2 | 50.0 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-methoxy-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)OC | C20H18N4O3S
